US07507838B2
A solution of tartaric acid bis(acetonide) prepared as in Example 1 (1.84 g, 8.0 mmol) in anhydrous tetrahydrofuran (15 mL) was cooled to −40° C. A 1 M solution of potassium tert-butoxide in tetrahydrofuran (8.0 mL, 8 mmol) was added by syringe over the course of 5 min. The mixture was stirred an additional 20 min. at −40° C. after which 4 M HCl in dioxane (3.0 mL, 12 mmol) was added and the reaction was allowed to warm. Ethyl acetate (75 mL) and 1 N HCl (25 mL) were added. The organic layer was separated and washed with water (25 mL). Removal of volatiles on the rotary evaporator afforded the crude product (1.37 g, 99%). This material contained ca. 5% of a side-product presumed to be the E-stereoisomer and characterized by an NMR singlet at δ 5.48 as well as ca. 10% of recovered bis(acetonide) starting material. A 0.63 g sample of this material was crystallized from hot ethyl acetate to afford Z-2,2-dimethyl-5-carboxymethylene-1,3-dioxolan-4-one as fine white needles (0.37 g).

reactant | tartaric acid bis(acetonide) | [CH2-]C(=O)C.[CH2-]C(=O)C.C(C(O)C(O)C(=O)O)(=O)O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 12 mmol, 3.0 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 1 N, 25 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mmol, 8.0 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | Z-2,2-dimethyl-5-carboxymethylene-1,3-dioxolan-4-one | 0.37 g | CC1(O\C(\C(O1)=O)=C/C(=O)O)C | C7H8O5
